US05650533
A solution of potassium hydroxide (1.46 g) in water was added to a mixture of ethyl 2-bromo-4-ethylsulphenyl-3-methoxybenzoate (3.98 g) in ethanol with stirring. The mixture was stirred and heated at reflux for 4 hours. It was cooled and evaporated then water was added and the mixture was washed with ethyl acetate then acidified to pH1. It was extracted with ethyl acetate, washed with water, dried (MgSO4) and filtered. The filtrate was evaporated to dryness to give 2-bromo-4-ethylsulphenyl-3-methoxybenzoic acid as an off-white solid NMR (CDCl3) 1.5(t,3H) 3.05(q,2H) 3.9(s,3H) 7.15(d, 1H) 7.6(d, 1H).

reactant | potassium hydroxide | 1.46 g | [OH-].[K+]
reactant | ethyl 2-bromo-4-ethylsulphenyl-3-methoxybenzoate | 3.98 g | BrC1=C(C(=O)OCC)C=CC(=C1OC)SCC | C12H15BrO3S
solvent | water | O | H2O
solvent | ethanol | C(C)O | C2H6O
product | 2-bromo-4-ethylsulphenyl-3-methoxybenzoic acid | BrC1=C(C(=O)O)C=CC(=C1OC)SCC | C10H11BrO3S
